US08207344B2
1: 1-(1-Trifluoromethyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester
1,1′-Carbonyldiimidazole (77.36 g; 467.52 mmol) is added to a solution of 1-(trifluoromethyl)cyclopropanecarboxylic acid (72.04 g; 467.52 mmol) in tetrahydrofuran (600 mL) while keeping the internal temperature below 30° C. Piperidine-4-carboxylic acid ethyl ester (50 g; 311.68 mmol) is added after 10 min and the reaction is stirred under nitrogen atmosphere at room temperature for 16 h. The solvent is removed under controlled vacuum and the residue is partitioned between 2 M aqueous solution of sodium hydroxide (200 mL) and dichloromethane (300 mL). The organic layer is washed with brine (100 mL), dried over magnesium sulphate, filtered and concentrated to obtain 93.45 g of the title compound. MS (m/z) 294 (M+1).

reactant | 1,1′-Carbonyldiimidazole | 467.52 mmol, 77.36 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(trifluoromethyl)cyclopropanecarboxylic acid | 467.52 mmol, 72.04 g | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | Piperidine-4-carboxylic acid ethyl ester | 311.68 mmol, 50 g | C(C)OC(=O)C1CCNCC1 | C8H15NO2
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 1-(1-Trifluoromethyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester | 93.45 g | C(C)OC(=O)C1CCN(CC1)C(=O)C1(CC1)C(F)(F)F | C13H18F3NO3
